US08835634B2
To a solution of 400 mg (2.32 mM) of N-(2,2-difiuoroethyl)benzene-1,2-diamine in 7 ml of methanol were added 428 mg (2.32 mM) of 4-chloro-α-oxo-benzeneacetic acid. The mixture was refluxed for 3 h. A solid was filtered, washed and dried under vacuum to give 236 mg of 3-(4-chlorophenyl)-1-(2,2-difluoroethyl) quinoxalin-2(1H)-one Yield: 32%.

reactant | N-(2,2-difiuoroethyl)benzene-1,2-diamine | 2.32 mM, 400 mg | FC(CNC=1C(=CC=CC1)N)F | C8H10F2N2
reactant | 4-chloro-α-oxo-benzeneacetic acid | 2.32 mM, 428 mg | ClC1=CC=C(C=C1)C(C(=O)O)=O | C8H5ClO3
solvent | methanol | 7 ml | CO | CH4O
product | 3-(4-chlorophenyl)-1-(2,2-difluoroethyl) quinoxalin-2(1H)-one | 236 mg, Yield: 32% | ClC1=CC=C(C=C1)C=1C(N(C2=CC=CC=C2N1)CC(F)F)=O | C16H11ClF2N2O
